Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old woman with symptoms of atypical chest 
pain x 2 weeks. Pain is worse with any movement but not further 
worsened by exercise. No SOB, no n/v or diaphoresis with the 
pain. Pain travels from ___ chest to her back. Has not had 
any cough or f/c. Also complaining of swelling and pain in her 
fingers for the last several weeks. 

In the ED, initial vitals were  98.6 70 168/88 18 95%. CXR 
demonstrated low lung volumes. Trops negative x 2. Stress test 
with pseudonormalization. She was admitted for further risk 
stratification with ETT-imaging.

On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, cough, hemoptysis, black stools or 
red stools. She denies recent fevers, chills or rigors. She 
denies exertional buttock or calf pain. All of the other review 
of systems were negative.  
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope. 

 
Past Medical History:
Invasive ductal cancer
Hypertension
Hyperlipidemia
Non-insulin-dependent type 2 diabetes.  Motor vehicle accident 
in ___ resulting in low back pain, now resolved.  Right upper 
extremity radial fixation in ___ after a patient fell on her. 
Gallbladder removal at ___.
Left partial mastectomy plus left axillary dissection (___)
Left Axillary Lymph Node Excision (___)

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; sister with breast cancer, father with 
prostate cancer. 

 
Physical Exam:
Admission:
VS: T=98.5.BP=129-152/74-85.HR=69-80.RR=18.O2 sat=95-98% on RA  
General:  well appearing woman, talkative/conversant
HEENT:  MMM, no cervical/clavicular LAD
Neck:  no JVD
CV:  RRR no m/r/g
Lungs:  CTAB no w/r/r
Abdomen:  soft/nt/nd +BS
Ext:  non-edematous, tenderness of R ___ digit MCP joint, 
minimal erythema

Grossly unchanged on discharge.
 
Pertinent Results:
Admission:
___ 02:34PM BLOOD WBC-8.3 RBC-4.82 Hgb-13.9 Hct-39.1 
MCV-81* MCH-28.9 MCHC-35.6* RDW-14.3 Plt ___
___ 02:34PM BLOOD Glucose-88 UreaN-14 Creat-0.7 Na-141 
K-3.7 Cl-100 HCO3-27 AnGap-18
___ 06:15AM BLOOD Calcium-9.1 Phos-3.5 Mg-1.7 UricAcd-8.5* 
Cholest-179
___ 06:15AM BLOOD Triglyc-167* HDL-44 CHOL/HD-4.1 
LDLcalc-102 LDLmeas-114

Discharge:
___ 06:15AM BLOOD WBC-5.7 RBC-4.33 Hgb-12.1 Hct-35.7* 
MCV-83 MCH-27.9 MCHC-33.8 RDW-14.4 Plt ___
___ 06:15AM BLOOD Glucose-126* UreaN-14 Creat-0.7 Na-138 
K-3.6 Cl-101 HCO3-27 AnGap-14
___ 09:15PM BLOOD cTropnT-<0.01
___ 02:34PM BLOOD cTropnT-<0.01

Stress Test:
Final Report 
  
RADIOPHARMACEUTICAL DATA: 
   31.9 mCi Tc-99m Sestamibi Stress ___ 
HISTORY: ___ year old F hx of NIDDM, HTN, HLD, Left breast CA s/p 
radiation to L 
breast p/w exertional chest pain and NSSTTW.  
  
SUMMARY OF EXERCISE DATA FROM THE EXERCISE LAB: 
Exercise protocol: Gervino 
Resting heart rate: 69 
Resting blood pressure: 132/78 
Exercise duration: 10.25 min. 
Peak heart rate: 147 
Percent max predicted HR: 89 
Peak blood pressure: 165/90 
Symptoms during exercise: none 
Reason exercise terminated: Fatigue 
ECG findings: Sinus with isolated VPB 
  
IMAGING METHOD: 
Stress and resting perfusion images were obtained on separate 
days with  Tc-99m 
sestamibi. 
Tracer was injected 45 minutes prior to obtaining images. 
This study was interpreted using the 17-segment myocardial 
perfusion model. 
Imaging Protocol: gated SPECT 
  
INTERPRETATION: 
Resting and stress perfusion images reveal uniform tracer uptake 
throughout the 
myocardium.  Left ventricular cavity size is normal. 
  
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 74%. 
  
IMPRESSION: Normal cardiac perfusion and wall motion with LVEF 
of 74%. 
  

___, M.D.
 

___, M.D.
 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of DMII, HLD, and 
breast cancer undergoing XRT to L breast who presented with 
chest pain. 

# Chest Pain: Differential included unstable angina versus 
stable angina versus non-cardiac chest pain. Multiple risk 
factors for CAD especially XRT, DM,HTN, and obesity. She was 
risk stratified with biomarkers and stress test with myocardial 
perfusion study. Biomarkers and stress test were unremarkable. 
It is likely that her chest pain was secondary to a 
musculoskeletal source. Her initial chest pain improved with 
aspirin 325 on arrival and did not recur during her admission.

# R ___ digit MCP Joint pain: Differential includes gout given 
elevated uric acid. ddx also includes osteoarthritis vs. 
dupatreyns contracture. Ms. ___ was trialed on colchisine which 
improved her pain. Further workup/treatment per PCP ___.  


# DM: Ms. ___ was maintained on a sliding insulin scale. 

# HTN: ACE/HCTZ were continued.

# Breast Cancer: Letrazol was continued.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. moexipril-hydrochlorothiazide *NF* ___ mg Oral qd 
3. Pravastatin 20 mg PO DAILY 
4. letrozole *NF* 2.5 mg ORAL DAILY 
 * Patient Taking Own Meds * 
5. Aspirin 325 mg PO DAILY 
6. GlyBURIDE 2.5 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. letrozole *NF* 2.5 mg ORAL DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Pravastatin 20 mg PO DAILY 
5. Colchicine 0.6 mg PO BID 
RX *colchicine [Colcrys] 0.6 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0
6. GlyBURIDE 2.5 mg PO DAILY 
7. moexipril-hydrochlorothiazide *NF* ___ mg Oral qd 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atypical Chest Pain, likely due to muscular strain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Ms. ___,
    You were admitted with chest pain in which we wanted to rule 
out a heart attack. We were able to do this with lab tests and a 
stress test. 
    Your knuckle pain is due to either gout or osteoarthritis. 
We treated the pain with a drug called colchisine. You should 
follow up with your primary care doctor regarding the joint pain 
you are experiencing.
 
Followup Instructions:
___